US05728686
[1-(7-Dimethylphosphinyl-3-methylxanthin-1-yl)methyl]dimethylphosphine Oxide
The title substance was prepared from 22 g (0.1 mol) of 3-methylxanthine disodium salt and chloromethyldimethylphosphine oxide analogously to Example 59 and crystallized from methanol.

reactant | 3-methylxanthine disodium salt | 0.1 mol, 22 g | [Na].[Na].CN1C(NC(C=2NC=NC12)=O)=O
reactant | chloromethyldimethylphosphine oxide | ClCP(C)(C)=O | C3H8ClOP
product | [1-(7-Dimethylphosphinyl-3-methylxanthin-1-yl)methyl]dimethylphosphine Oxide | CP(=O)(N1C=NC=2N(C(N(C(C12)=O)CP(C)(C)=O)=O)C)C | C11H18N4O4P2
